US04983723
To 50 ml of a glacial acetic acid solution containing 600 mg of 4-[4-(t-butyldimethylsilyl)oxy-1,2-epoxy-2,6,6-trimethylcyclohexyl]but-3-en-2-one was added 8.9 g of a zinc powder at room temperature, and the mixture was vigorously stirred for 5 hours while maintaining the reaction temperature at about 40° C. To the reaction mixture was added 120 ml of chloroform, followed by stirring vigorously. Any insoluble matter was separated by filtration, and the filtrate was washed successively with water, a 5% aqueous solution of sodium hydrogen carbonate and water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent, etc. were removed by distillation under reduced pressure. Purification of the resiude by silica gel chromatography gave 241 mg (yield: 55%) of 4-(2,4-dihydroxy-2,6,6-trimethylcyclohexyl)but-3-en-2-one.

reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | 4-[4-(t-butyldimethylsilyl)oxy-1,2-epoxy-2,6,6-trimethylcyclohexyl]but-3-en-2-one | 600 mg | [Si](C)(C)(C(C)(C)C)OC1CC2(C(C(C1)(C)C)(O2)C=CC(C)=O)C | C19H34O3Si
catalyst | zinc | 8.9 g | [Zn] | Zn
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2,4-dihydroxy-2,6,6-trimethylcyclohexyl)but-3-en-2-one | 241 mg, yield: 55% | OC1(C(C(CC(C1)O)(C)C)C=CC(C)=O)C | C13H22O3
